US07858623B2
A 50 mL round bottom flask with a reflux condenser was charged with (1 Z)—N′-(((7-chlorothieno[3,2-b]pyridin-2-yl)carbonyl)oxy)ethanimidamide (0.282 g, 1.04 mmol) and toluene (10 ml) and heated to 110° C. and stirred for 18 hours. LC/MS analysis indicated a mixture of the product and 7-chlorothieno[3,2-b]pyridine-2-carboxylic acid. The reaction was diluted with chloroform (30 mL) and washed with water (30 mL), sat. aq. NaHCO3 (30 mL), and brine (30 mL). The organic layer was dried with MgSO4, filtered, and concentrated in vacuo to yield 7-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridine (0.1128 g, 43% yield) as a light yellow solid, which was used without further purification.

reactant | (1 Z)—N′-(((7-chlorothieno[3,2-b]pyridin-2-yl)carbonyl)oxy)ethanimidamide | 1.04 mmol, 0.282 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)O\N=C(\C)/N | C10H8ClN3O2S
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 7-chlorothieno[3,2-b]pyridine-2-carboxylic acid | ClC1=C2C(=NC=C1)C=C(S2)C(=O)O | C8H4ClNO2S
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridine | 0.1128 g, 43% yield | ClC1=C2C(=NC=C1)C=C(S2)C2=NC(=NO2)C | C10H6ClN3OS
